US04193921
A solution of 0.875 g of (20S)-1α,3β-dihydroxy-20-methyl-pregn-5-ene-21-carboxylic acid methyl ester in 40 ml. of absolute benzene was treated with 10 mg of anhydrous p-toluene-sulphonic acid and 1.5 ml. of 3,4-dihydro-2H-pyran and stored at room temperature for 24 hours. The solution was diluted with ether, washed with saturated sodium bicarbonate solution and dried over sodium sulphate. After concentration and drying in vacuo, there were obtained 1.2 g of oily (20S)-1α,3β-di(tetrahydropyranyloxy)-20-methyl-pregn-5-ene-21-carboxylic acid methyl ester; [α]D =-12° (c=0.5 in chloroform).

reactant | (20S)-1α,3β-dihydroxy-20-methyl-pregn-5-ene-21-carboxylic acid methyl ester | 0.875 g | COC(=O)C[C@@H]([C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C | C24H38O4
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | p-toluene-sulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | O1CCCC=C1 | C5H8O
solvent | ether | CCOCC | C4H10O
product | (20S)-1α,3β-di(tetrahydropyranyloxy)-20-methyl-pregn-5-ene-21-carboxylic acid methyl ester | 1.2 g | COC(=O)C[C@@H]([C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1)C | C34H54O6
